US04225609
Preparation of 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid
Ethyl 4-(4-oxobutyl)benzoate (4.15 g., 18.8 mmol.) is added dropwise to a stirred solution of 1-amino-2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]ethane in carbon tetrachloride (1 ml.) maintained at 25° C. The resulting mixture is stirred for 30 minutes before being treated with anhydrous sodium sulfate (4 g.). Stirring is continued for 2 hours. The solid is removed by filtration and washed with a small quantity of benzene. The combined filtrate and washings are diluted with benzene (70 ml.), treated with HSCH2CO2H (1.84 g., 20 mmole.) in one portion, and then refluxed in a Dean-Stark apparatus for 16 hours. The reaction mixture is allowed to cool to room temperature, subsequently washed with diluted hydrochloric acid and 5% sodium bicarbonate, dried over anhydrous magnesium sulfate, and filtered. Evaporation in vacuo affords an oil residue which is dissolved in methanol (50 ml.) plus concentrated hydrochloric acid (0.2 ml.). The resulting mixture is stirred at ambient temperature for 3 hours, diluted with water, and extracted with ether. The ethereal extract is washed with diluted sodium bicarbonate, dried over anhydrous magnesium sulfate, filtered, and concentrated to give an oil residue. The oil residue is then applied to a silica gel column (120 g.) with chloroform. Elution with chloroform-methanol (100:1; v:v; 630 ml.) gives impure material. Further elution with the same eluant (300 ml.) provides the title compound (2.5 g., 5.96 mmol., 32%) as a pale yellow oil, pmr (CDCl3) δ1.38 (3H, t), 3.50 (2H, s), 4.40 (2H, q), 4.72 (1H, m), 7.23 (2 H, d), 8.00 (2H, d).

reactant | Ethyl 4-(4-oxobutyl)benzoate | 18.8 mmol, 4.15 g | O=CCCCC1=CC=C(C(=O)OCC)C=C1 | C13H16O3
reactant | 1-amino-2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]ethane | NCCC1(CCCCC1)OC1OCCCC1 | C13H25NO2
reactant | sodium sulfate | 4 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | HSCH2CO2H | 20 mmole, 1.84 g | SCC(=O)O | C2H4O2S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | carbon tetrachloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | 5.96 mmol, 2.5 g, 32% | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
